US04496586
Magnesium (36 g, 1.5 mole) and tetrahydrofuran (THF) (300 ml) were added to a reactor, and a solution of crotyl chloride or 3-chloro-1-butene (118 g, 1.8 mole) in THF (100 ml) was added dropwise at 30° to 35° C. to prepare a Grignard reagent. Thereafter, to this THF solution of the Grignard reagent was added dropwise a solution of furfural (106 g, 1.1 mole) in THF (150 ml) at 20° to 30° C. over about 1 hour, followed by stirring at room temperature for further 2 hours. After completion of the reaction, the reaction solution was poured into an aqueous ammonium chloride solution (about 500 ml), followed by extraction with ether. The ether extract was washed with water, dried and concentrated, and the residue obtained was distilled under reduced pressure to obtain 150 g (yield, 90%) of pure 1-(2-furyl)-2-methyl-3-buten-1-ol having a boiling point of 95°-107° C./25 mmHg.

reactant | Magnesium | 1.5 mole, 36 g | [Mg] | Mg
reactant | crotyl chloride | C(C=CC)Cl | C4H7Cl
reactant | 3-chloro-1-butene | 1.8 mole, 118 g | ClC(C=C)C | C4H7Cl
reactant | furfural | 1.1 mole, 106 g | C(C1=CC=CO1)=O | C5H4O2
reactant | ammonium chloride | about 500 ml | [Cl-].[NH4+]
solvent | THF | 100 ml | O1CCCC1 | C4H8O
solvent | THF | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1-(2-furyl)-2-methyl-3-buten-1-ol | 150 g, 90% | O1C(=CC=C1)C(C(C=C)C)O | C9H12O2
